US06649643B1
Production of 6-(1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthol
A solution of tetrabutylammonium fluoride in THF (1 M, 100 mL) was added to a solution of 1-(6-tert-butyldimethylsilyloxy-2-naphthyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (35.0 g) in THF (100 ml) at 0° C. and the mixture was stirred at room temperature for 1 h. The solvent was evaporated, and water was added to the residue. The precipitate was filtered, washed with diethyl ether and water to give the titled compound (28.3 g) as a colorless powder.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(6-tert-butyldimethylsilyloxy-2-naphthyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 35.0 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H46N2O2Si
solvent | THF | 1 M, 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-(1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthol | 28.3 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C36H32N2O2
